US09101616B2
Step-6: 4-((1H-imidazol-1-yl)methyl)-1H-indole-2-carboxylic acid
The mixture of 4-Imidazol-1-ylmethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methy ester (350 mg, 0.99 mmol) and 2N aqueous sodium hydroxide solution (1 mL. 2 mmol) in THF (5 mL) was refluxed at 80° C. with stirring for 2 days. 2N hydrochloric acid was added until pH was 7.0. The mixture was concentrated in vacuo. The resulting percipitate was collected by filtration and washed with dichloromethane, methanol, H2O and ethyl acetate to give 63 mg (27% yield) of the title compound as a white solid:

reactant | 4-Imidazol-1-ylmethyl-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methy ester | 0.99 mmol, 350 mg | COC(=O)C=1N(C2=CC=CC(=C2C1)CN1C=NC=C1)C(=O)OC(C)(C)C | C19H21N3O4
reactant | sodium hydroxide | 2 mmol, 2N, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-((1H-imidazol-1-yl)methyl)-1H-indole-2-carboxylic acid | 63 mg, 27% yield | N1(C=NC=C1)CC1=C2C=C(NC2=CC=C1)C(=O)O | C13H11N3O2
